US07786307B2
m) tert-Butyl (3(S)-benzyloxymethyl-1(S)-hydroxymethyl-4-methylpentyl)carbamate
The stirred solution of 5.0 g of methyl 4(S)-benzyloxymethyl-2(S)-tert-butoxycarbonylamino-5-methylhexanecarboxylate [CAS 180182-92-7] in 80 ml of tetrahydrofuran is admixed in portions with 0.660 g of lithium borohydride. The reaction mixture is stirred for another 3 hours, admixed cautiously with 25 ml of methanol and concentrated by evaporation at 40° C. The residue is dissolved once more in 70 ml of methanol and again concentrated by evaporation at 40° C. The residue is admixed with 1M HCl (cold) and extracted with dichloromethane (3×). The combined organic phases are washed with water, dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained from the residue by means of flash chromatography (SiO2 60F) as a colourless oil. Rf=0.32 (1:1 EtOAc-heptane); Rt=4.86 (gradient I).

reactant | methyl 4(S)-benzyloxymethyl-2(S)-tert-butoxycarbonylamino-5-methylhexanecarboxylate | 5.0 g | C(C1=CC=CC=C1)OC[C@@H](C[C@@H](CC(=O)OC)NC(=O)OC(C)(C)C)C(C)C | C22H35NO5
reactant | lithium borohydride | 0.660 g | [BH4-].[Li+]
reactant | methanol | 25 ml | CO | CH4O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | tert-Butyl (3(S)-benzyloxymethyl-1(S)-hydroxymethyl-4-methylpentyl)carbamate | C(C1=CC=CC=C1)OC[C@@H](C[C@@H](CO)NC(OC(C)(C)C)=O)C(C)C | C20H33NO4
